US04279637
PREPARATION OF ETHYL [3,5-DICHLORO-4-(3,5-DICHLOROPHENOXY)-PHENYL]CARBAMATE.
3,5-Dichloro-4-(3,5-dichlorophenoxy)benzenamine (0.1 mole) and pyridine (50 ml) are charged into a glass reaction vessel fitted with a mechanical stirrer and thermometer and are cooled to about 5° C. Ethyl chloroformate (0.125 mole) is added, with stirring, at about 5° C. Stirring is continued for a period of about 30 minutes at about 5° C., then for an additional 16 hours at room temperature. The mixture is then washed with 2 portions of water (50 ml), dried and the solventis then removed to yield the desired product ethyl [3,5-dichloro-4-(3,5-dichlorophenoxy)phenyl]carbamate.

reactant | 3,5-Dichloro-4-(3,5-dichlorophenoxy)benzenamine | 0.1 mole | ClC=1C=C(C=C(C1OC1=CC(=CC(=C1)Cl)Cl)Cl)N | C12H7Cl4NO
reactant | Ethyl chloroformate | 0.125 mole | ClC(=O)OCC | C3H5ClO2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | ethyl [3,5-dichloro-4-(3,5-dichlorophenoxy)phenyl]carbamate | ClC=1C=C(C=C(C1OC1=CC(=CC(=C1)Cl)Cl)Cl)NC(OCC)=O | C15H11Cl4NO3
